US07772221B2
Step F (3): According to the general procedure outlined in Step A (3), a solution of LiOH/H2O (2M, 2.5 mL), was added to a mixture of (S)-methyl 2-(N-methylhexanamido)pent-4-enoate (254 mg, 1.05 mmol) in THF (2.5 mL) to afford 229 mg (96% yield) of (S)-2-(N-methylhexanamido)pent-4-enoic acid as a clear viscous oil. LC-MS (M+H)+=228.2; 1H NMR (500 MHz, CDCl3) δ ppm 0.82-0.93 (m, 3H) 1.23-1.36 (m, 4H) 1.55-1.70 (m, 2H) 2.26-2.38 (m, 2H) 2.47-2.59 (m, 1H) 2.71-2.80 (m, 1H) 2.94 (s, 3H) 4.99-5.19 (m, 3H) 5.61-5.75 (m, 1H) 5.91 (br s, 1H).

reactant | LiOH H2O | 2M, 2.5 mL | [Li+].[OH-].O
reactant | (S)-methyl 2-(N-methylhexanamido)pent-4-enoate | 1.05 mmol, 254 mg | CN(C(CCCCC)=O)[C@H](C(=O)OC)CC=C | C13H23NO3
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
product | (S)-2-(N-methylhexanamido)pent-4-enoic acid | 229 mg, 96% yield | CN(C(CCCCC)=O)[C@H](C(=O)O)CC=C | C12H21NO3
